US07960436B2
f. N-[6-Amino-1-(4-trifluoromethyl-phenylamino)-indan-5-yl]-3-cyclopentyl-propionamide
To a solution of N-[6-nitro-1-(4-trifluoromethyl-phenylamino)-indan-5-yl]-3-cyclopentyl-propionamide (200 mg) in 20 ml of methanol was added a catalytic amount of Raney Nickel. The resulting mixture was hydrogenated under regular pressure at room temperature for 4 hours. The reaction mixture was filtered through celite and washed with methanol. The filtrate was evaporated to dryness in vacuo and the residue was purified by column (hexane/EtOAc, 3:1) to give a white solid product in a quantitative yield. 1H-NMR (DMSO-d6): δ 9.01 (s, 1H, NH, exchangeable with D2O), 7.36 (d, 2H, J=8.4 Hz), 7.05 (s, 1H), 6.78 (d, 2H, J=8.4 Hz), 6.66 (d, 1H, NH, J=8.4 Hz, exchangeable with D2O), 6.31 (s, 1H), 4.88 (q, 1H, J=8.4 Hz), 4.69 (brs, 2H, NH2, exchangeable with D2O), 2.77 (ddd, 1H, J=15.3, 8.4, 3.6 Hz), 2.67 (m, 1H), 2.42 (m, 1H), 2.29 (t, 2H, J=7.5 Hz), 1.73 (m, 4H), 1.56 (m, 4H), 1.48 (m, 2H), 1.07 (m, 2H). MS: 432 (M+1).

reactant | N-[6-nitro-1-(4-trifluoromethyl-phenylamino)-indan-5-yl]-3-cyclopentyl-propionamide | 200 mg | [N+](=O)([O-])C1=C(C=C2CCC(C2=C1)NC1=CC=C(C=C1)C(F)(F)F)NC(CCC1CCCC1)=O | C24H26F3N3O3
solvent | methanol | 20 ml | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
product | N-[6-Amino-1-(4-trifluoromethyl-phenylamino)-indan-5-yl]-3-cyclopentyl-propionamide | quantitative yield | NC1=C(C=C2CCC(C2=C1)NC1=CC=C(C=C1)C(F)(F)F)NC(CCC1CCCC1)=O | C24H28F3N3O
